US06329366B1
N-(4-Ethylsulfonylphenyl)-N′-(1-methylethyl)sulfamide (5 g, 0.016 mol) was dissolved in dry dichloromethane (150 ml) and methanesulphonic acid (18.87 ml, 0.303 mol). The solution was cooled at 0° C. before the addition of trioxan (0.480 g, 0.005 mol) in dichloromethane (15 ml). After stirring at 0° C. for 1 hr, the reaction mixture was poured onto ice-water (250 ml), the layers separated, dried (MgSO4) and concentrated in vacuo to yield 3,4-dihydro-6-(ethylsulfonyl)-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide as a white solid. δ(1H NMR, DMSO, ppm): 1.10 (9H, m), 3.30 (2H, q), 4.10 (1H, m), 4.80 (2H, s), 6.95 (1H, d), 7.75 (1H, dd), 7.80 (1H, d).

reactant | N-(4-Ethylsulfonylphenyl)-N′-(1-methylethyl)sulfamide | 0.016 mol, 5 g | C(C)S(=O)(=O)C1=CC=C(C=C1)NS(=O)(=O)NC(C)C | C11H18N2O4S2
reactant | methanesulphonic acid | 0.303 mol, 18.87 ml | CS(=O)(=O)O | CH4O3S
reactant | trioxan | 0.005 mol, 0.480 g | O1OOCCC1 | C3H6O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3,4-dihydro-6-(ethylsulfonyl)-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | C(C)S(=O)(=O)C=1C=CC2=C(CN(S(N2)(=O)=O)C(C)C)C1 | C12H18N2O4S2
